US07468382B2
To a suspension of (4-{[5-carbamoyl-2-(2-chloro-benzylamino)-pyridin-4-ylamino]-methyl}-cyclohexylmethyl)-carbamic acid tert-butyl ester (31 mg, 0.062 mmol) in CH2Cl2 at ambient temperature was added Burgess reagent (40 mg, 0. 168 mmol) in portions over 3 h. The resultant mixture was stirred at 25° C. for another 1 h and then water was added. The mixture was stirred for 20 min and extracted with CH2Cl2 (2×15 mL). The combined organic layers were dried over Na2SO4 and concentrated in vacuo. The residue was purified by silica-gel column chromatography (hexanes/EtOAc, 2:1 v/v then EtOAc) to afford (4-{[2-(2-chloro-benzylamino)-5-cyano-pyridin-4-ylamino]-methyl}-cyclohexylmethyl)-carbamic acid tert-butyl ester as a white solid (12 mg, 40%).

reactant | (4-{[5-carbamoyl-2-(2-chloro-benzylamino)-pyridin-4-ylamino]-methyl}-cyclohexylmethyl)-carbamic acid tert-butyl ester | 0.062 mmol, 31 mg | C(C)(C)(C)OC(NCC1CCC(CC1)CNC1=CC(=NC=C1C(N)=O)NCC1=C(C=CC=C1)Cl)=O | C26H36ClN5O3
reactant | Burgess reagent | 168 mmol, 40 mg | CC[N+](CC)(CC)S(=O)(=O)N=C([O-])OC | C8H18N2O4S
reactant | water | O | H2O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (4-{[2-(2-chloro-benzylamino)-5-cyano-pyridin-4-ylamino]-methyl}-cyclohexylmethyl)-carbamic acid tert-butyl ester | 12 mg, 40% | C(C)(C)(C)OC(NCC1CCC(CC1)CNC1=CC(=NC=C1C#N)NCC1=C(C=CC=C1)Cl)=O | C26H34ClN5O2
